US06949542B2
4-[3-(4-Methyl-pyridin-3-yl)-phenyl]-8-trifluoromethyl-1,3-dihydro-benzo[b][1,4]diazepin-2-one
The title compound was prepared from (2-{3-[3-(6-cyclopropyl-pyridin-3-yl)-phenyl]-3-oxo-propionylamino}-5-ethyl-4-trifluoromethyl-phenyl)-carbamic acid tert-butyl ester (Example M206) (266 mg, 0.518 mmol) by treatment with TFA in CH2Cl2 according to the general procedure N. Obtained as a white solid (162 mg, 79%).

reactant | (2-{3-[3-(6-cyclopropyl-pyridin-3-yl)-phenyl]-3-oxo-propionylamino}-5-ethyl-4-trifluoromethyl-phenyl)-carbamic acid tert-butyl ester | 0.518 mmol, 266 mg | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)CC)C(F)(F)F)NC(CC(=O)C1=CC(=CC=C1)C=1C=NC(=CC1)C1CC1)=O)=O | C31H32F3N3O4
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 4-[3-(4-Methyl-pyridin-3-yl)-phenyl]-8-trifluoromethyl-1,3-dihydro-benzo[b][1,4]diazepin-2-one | CC1=C(C=NC=C1)C=1C=C(C=CC1)C1=NC2=C(NC(C1)=O)C=C(C=C2)C(F)(F)F | C22H16F3N3O
